Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue, L sided pain/weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ yo F with a PMH of Alzheimer's who presents with 
increasing fatigue and difficulty walking since ___, found to 
have the flu.  

Per daughter, the patient's fatigue started on ___ was 
sleeping all day. Noticed her to being losing control of her 
urine more than usual and having a hard time moving her left 
leg, but was still walking. No diarrhea. No vomiting. No coughs. 
Has felt warm but no documented fevers. Pt often complains of 
body pain but it is always unclear where she is hurting.  

Per family pt with L sided weakness, lists to L when walking. at 
baseline MS. ___ report she is confused at baseline and has 
trouble following commands.  

In the ED, initial vitals were: 99.9 84 139/72 18 98% RA  
 - Exam notable for: Not recorded  
 - Labs notable for: + Flu.  
 - Imaging was notable for: CT head with No acute intracranial 
process.  
 - Patient was given: Tamiflu, mirtazapine  

Upon arrival to the floor, patient was asleep but arousable to 
voice. She did not respond to questions in ___, or 
___. She did speak angrily, rapidly, and unintelligibly 
when an exam was attempted.  

 
Past Medical History:
Alzheimer's dementia
Urinary incontinence
Appendectomy  
Total abdominal hysterectomy  
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vital Signs: 98/56, 59, 20, 93% RA
General: Asleep but arousable to voice. Not responsive to 
inquiries. Picking at sheets. 
HEENT: NCAT. Otherwise unable to asses.  
Neck: Supple.  
CV: RRR, normal S1/S2, no m/r/g
Lungs: CTAB in anterior lung fields, No respiratory distress, 
breathing comfortably  
Abdomen: Soft, thin, non-tender no rebound or guarding  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: Pushes against hand in ___.  

DISCHARGE PHYSICAL EXAM
=======================
Vital Signs: 97.8 ___ 61-66 17 ___
General: Sleeping and snoring
HEENT: NCAT.   
Neck: Supple.  
CV: RRR, normal S1/S2, no m/r/g
Lungs: CTAB in anterior lung fields, No respiratory distress, 
breathing comfortably  
Abdomen: Soft, thin, non-tender no rebound or guarding  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: Pushes against hand in ___.  
 
Pertinent Results:
ADMISSION LAB RESULTS
=====================
___ 07:15PM BLOOD WBC-4.0 RBC-3.71* Hgb-11.3 Hct-35.0 
MCV-94 MCH-30.5 MCHC-32.3 RDW-13.6 RDWSD-47.1* Plt ___
___ 07:15PM BLOOD ___ PTT-27.4 ___
___ 07:15PM BLOOD Glucose-85 UreaN-18 Creat-0.6 Na-135 
K-4.1 Cl-99 HCO3-25 AnGap-15
___ 07:15PM BLOOD Calcium-8.6 Phos-3.9 Mg-2.3
___ 07:35PM BLOOD Lactate-1.6

DISCHARGE LAB RESULTS
=====================
___ 01:15PM BLOOD WBC-3.4* RBC-3.45* Hgb-10.7* Hct-32.6* 
MCV-95 MCH-31.0 MCHC-32.8 RDW-13.7 RDWSD-47.1* Plt ___
___ 07:15PM BLOOD Neuts-49.9 ___ Monos-17.5* 
Eos-0.5* Baso-0.5 Im ___ AbsNeut-2.00 AbsLymp-1.26 
AbsMono-0.70 AbsEos-0.02* AbsBaso-0.02
___ 01:15PM BLOOD Plt ___
___ 07:15PM BLOOD ___ PTT-27.4 ___
___ 01:15PM BLOOD Glucose-105* UreaN-12 Creat-0.5 Na-137 
K-4.3 Cl-100 HCO3-26 AnGap-15
___ 01:15PM BLOOD Calcium-8.3* Phos-3.3 Mg-2.2
___ 01:15PM BLOOD WBC-3.4* RBC-3.45* Hgb-10.7* Hct-32.6* 
MCV-95 MCH-31.0 MCHC-32.8 RDW-13.7 RDWSD-47.1* Plt ___
___ 07:15PM BLOOD Neuts-49.9 ___ Monos-17.5* 
Eos-0.5* Baso-0.5 Im ___ AbsNeut-2.00 AbsLymp-1.26 
AbsMono-0.70 AbsEos-0.02* AbsBaso-0.02
___ 01:15PM BLOOD Plt ___
___ 01:15PM BLOOD Glucose-105* UreaN-12 Creat-0.5 Na-137 
K-4.3 Cl-100 HCO3-26 AnGap-15
___ 01:15PM BLOOD Calcium-8.3* Phos-3.3 Mg-2.2

IMAGING/STUDIES
===============
___ CXR:
No acute cardiopulmonary process.

___ CT Head without Contrast:
1. No acute intracranial process. 
2. Right inferior frontal encephalomalacia may reflect the 
sequela of prior infarct. 
3. Paranasal sinus disease. 

___ Left Hip XRay:
No fracture or dislocation

___ Pelvis Xray:
No fracture or dislocation

___ Left knee Xray:
No fracture or dislocation

___ Left ankle Xray:
No fracture or dislocation

___ Bilateral Lower Extremity Ultrasound:
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

MICROBIOLGY
===========
___ Blood culture: negative

___ Urine culture: negative

___ Urine culture:
___ 5:15 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
Ms. ___ is an ___ yo ___ speaking F w/ hx 
Alzheimer's and urinary incontinence who presented with 
increasing fatigue and difficulty walking since ___, found to 
have the flu. She completed 5 days of oseltamivir. Her hospital 
course was complicated by a UTI, for which she was started on 
Bactrim. 

# Influenza: Flu A PCR positive. She was oxygenating well, and 
breathing without difficulty. She was started on oseltamivir 
30mg BID (renally dosed). She was continued on oseltamivir for 5 
days. Day 1 = ___. Day 5 = ___.

# Urinary incontinence/UTI
Per the patient's family, the patient is incontinent of urine at 
baseline. The patient was retaining urine overnight requiring 
straight catheterization on ___. She also developed strongly 
scented urine.  Urine culture grew E. Coli, so she was started 
on Bactrim 1 tab DS BID, Day 1 = ___, Day 7 = ___. 

# Alzheimer's: Per the patient's daughter, the patient is 
confused at baseline. Per family members' reports, the patient 
remained at her baseline mental status throughout the 
hospitalization. Her home seroquel was decreased. She was 
continued on her home mertazapine 
 
# L-sided pain: On physical exam, the patient seemed to have 
some pain on palpation of the left lower extremity. CT head was 
negative for acute infarct. Imaging of pelvis, L knee, and ankle 
were negative for fracture. Lower extremity ultrasound showed no 
evidence of DVT. Physical therapy evaluated the patient and 
recommended discharge to rehab. He pain improved throughout the 
hospitalization. 

TRANSITIONAL ISSUES
==================
- Continue Bactrim through ___ for UTI
- Consider starting statin given history of stroke
- As patient is on Bactrim, please encourage significant amount 
of po fluid intake to avoid kidney injury

# CONTACT: ___ (granddaughter) ___, home: ___
# CODE: Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 50 mg PO QHS 
2. Mirtazapine 15 mg PO QHS 
3. melatonin 10 mg oral QHS 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
End date ___ 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*11 Tablet Refills:*0 
2.  QUEtiapine Fumarate 25 mg PO QHS 
RX *quetiapine 25 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
3.  melatonin 10 mg oral QHS  
4.  Mirtazapine 15 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis 
- Flu 
-UTI 
 
Secondary Diagnosis 
- Alzheimer's Disease 
- Urinary incontinence 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized at ___. 

Why did you come to the hospital?
=================================
- You came to the hospital because you were having more pain in 
your right leg, and you were more tired.

What did we do for you?
=======================
- We sent some lab work, which showed that you had the flu. We 
started you on a medication to help you fight the flu
- You had an ultrasound of your legs, which showed that you do 
not have a blood clot in your legs
- You had Xrays of your left hip, knee, and ankle, which were 
normal.
- We started you on antibiotics for a urinary tract infection

What do you need to do?
=======================
- It is important that you continue taking your antibiotics as 
prescribed. 
- It is important that you follow-up with your primary care 
doctor. 

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___